US07291631B2
Using General Procedure B: Reaction of 3-hydroxymethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzonitrile in CH2Cl2 with 4-phenyl-pyridine-2-carbaldehyde and NaBH(OAc)3 gave 3-hydroxymethyl-4-{[(4-phenyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzonitrile as a colorless oil. 1H NMR (CDCl3) δ 1.63 (m, 1H), 2.08 (m, 2H), 2.29 (m, 1H), 2.72 (m, 1H), 2.81 (m, 1H), 3.61 (d, 1H, J=12.0 Hz), 3.73 (d, 1H, J=12.0 Hz), 3.85 (m, 3H), 4.08-4.23 (m, 3H), 4.43 (d, 1H, J=9.0 Hz), 7.06 (dd, 1H, J=7.5, 3.0 Hz), 7.36-7.64 (m, 8H), 7.86 (d, 2H, J=9.0 Hz), 8.00 (s, 1H), 8.51 (dd, 2H, J=12.0, 4.5 Hz).

reactant | 3-hydroxymethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzonitrile | OCC=1C=C(C#N)C=CC1CNC1CCCC=2C=CC=NC12 | C18H19N3O
reactant | 4-phenyl-pyridine-2-carbaldehyde | C1(=CC=CC=C1)C1=CC(=NC=C1)C=O | C12H9NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-hydroxymethyl-4-{[(4-phenyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzonitrile | OCC=1C=C(C#N)C=CC1CN(C1CCCC=2C=CC=NC12)CC1=NC=CC(=C1)C1=CC=CC=C1 | C30H28N4O
